US08629157B2
Step 1: Synthesis of (S)-1-(4-methylamino-phenyl)-5-oxo-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide
A solution of {4-[(S)-2-(5-tert-butyl-isoxazol-3-ylcarbamoyl)-5-oxo-pyrrolidin-1-yl]-phenyl}-methyl-carbamic acid tert-butyl ester (550 mg, 1.21 mmol) in dichloromethane (5 mL) is cooled in an ice bath. A pre-cooled trifluoroacetic acid (15 mL) is added and the mixture is kept in ice-bath for 30 minutes. Trifluoroacetic acid is evaporated in vacuo, and the residue is treated with ice and sodium bicarbonate solution. Extracted with ethyl acetate (1×150 mL) and the combined extracts washed with brine (50 mL) dried over anhydrous Na2SO4 and solvent removed in vacuo to give the title compound, ESI m/z 357 [M+H]+.

reactant | {4-[(S)-2-(5-tert-butyl-isoxazol-3-ylcarbamoyl)-5-oxo-pyrrolidin-1-yl]-phenyl}-methyl-carbamic acid tert-butyl ester | 1.21 mmol, 550 mg | C(C)(C)(C)OC(N(C)C1=CC=C(C=C1)N1[C@@H](CCC1=O)C(NC1=NOC(=C1)C(C)(C)C)=O)=O | C24H32N4O5
reactant | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | (S)-1-(4-methylamino-phenyl)-5-oxo-pyrrolidine-2-carboxylic acid (5-tert-butyl-isoxazol-3-yl)-amide | C(C)(C)(C)C1=CC(=NO1)NC(=O)[C@H]1N(C(CC1)=O)C1=CC=C(C=C1)NC | C19H24N4O3
